US06331640B1
To 3-amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine on Wang resin (Example 69; 100 mg) was added a solution of HOAT (70 mg, 0.51 mmol), diisopropylcarbodiimide (80 μL, 0.51 mmol), and thiophene-2-carboxylic acid (70 mg, 0.55 mmol) in 1-methyl-2-pyrrolidinone (1 mL). The mixture was agitated for 2 h and then the resin was filtered and washed extensively with dichloromethane and methanol. Cleavage of the product was effected with triethylsilane/trifluoroacetic acid/dichloromethane (2:1:1; 1 mL) at room temperature for 30 min. The solvent was evaporated and the residue was purified by HPLC to give 3-(thiophene-2-carbonyl)amino-N-[2-chloro-4-[[(2,3-dihydro-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine (10.7 mg).

reactant | 3-amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine | NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2C=CNC2=CC=C1)Cl)=O)C(=O)O | C20H19ClN4O4
reactant | HOAT | 0.51 mmol, 70 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropylcarbodiimide | 0.51 mmol, 80 μL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | thiophene-2-carboxylic acid | 0.55 mmol, 70 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(thiophene-2-carbonyl)amino-N-[2-chloro-4-[[(2,3-dihydro-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine | 10.7 mg | S1C(=CC=C1)C(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2CCNC2=CC=C1)Cl)=O)C(=O)O | C25H23ClN4O5S
